US06274536B1
5-(5-Chloro-3-fluoro-1-methyl-6-oxo-1,6-dihydropyridin-2-yl)-2,4-dimethyl-[2H]-pyrazole-3-carbonitrile
1.54 g of 3-chloro-6-(1,4-dimethyl-5-cyano-[1H]-pyrazol-3-yl)-5-fluoropyridin-2-ol are introduced into a mixture of 20 ml of absolute 1,2-dimethoxyethane and 5 ml of absolute dimethylformamide at 22° C. With stirring, first 1.20 g of lithium bromide are added and then, 10 minutes later, in portions, 0.28 g of a 60% sodium hydride dispersion in oil. After a further 10 minutes, 0.86 ml of methyl iodide is added, after which the mixture is stirred overnight at 90° C. The mixture is then cooled to 22° C., carefully poured into dilute hydrochloric acid, and extracted with diethyl ether. The combined ethereal phases are washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo together with 4 g of silica gel. The silica gel is applied to a flash chromatography column and fractionated by means of gradient elution using n-hexane/ethyl acetate 3/1 to 1/1 (v/v). 0.68 g of the desired compound is obtained in the form of a white solid having a melting point of 190-191° C.

reactant | 3-chloro-6-(1,4-dimethyl-5-cyano-[1H]-pyrazol-3-yl)-5-fluoropyridin-2-ol | 1.54 g | ClC=1C(=NC(=C(C1)F)C1=NN(C(=C1C)C#N)C)O | C11H8ClFN4O
reactant | lithium bromide | 1.20 g | [Br-].[Li+]
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.86 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 5-(5-Chloro-3-fluoro-1-methyl-6-oxo-1,6-dihydropyridin-2-yl)-2,4-dimethyl-[2H]-pyrazole-3-carbonitrile | 0.68 g | ClC1=CC(=C(N(C1=O)C)C=1C(=C(N(N1)C)C#N)C)F | C12H10ClFN4O
